US06080773
A mixture of 12.5 g of 2-tributylstannylbenzoxazole (prepared by the method of P. Jutzi and W. Gilge, J. Organometallic Chem. 1983, 246, 159, using tributyltin chloride as a less toxic replacement for trimethyltin chloride) 5.66 g 2-bromobenzaldehyde, and 0.46 g tetrakis(triphenylphosphine)-palladium (0) in 300 ml of anhydrous xylene under a nitrogen atmosphere was heated to 115° C. for 12 h. The reaction mixture was cooled to room temperature and evaporated to dryness under reduced pressure. The resulting oil was purified by chromatography on silica eluting with ethyl acetate-heptane (1:5) to afford 5.8 g of 2-(benzoxazol-2-yl)benzaldehyde, GC-M.S. (E.I.) (M/Z): 223 [M+ ].

reactant | 2-tributylstannylbenzoxazole | 12.5 g | C(CCC)[Sn](C=1OC2=C(N1)C=CC=C2)(CCCC)CCCC
reactant | tributyltin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | trimethyltin chloride | C[Sn](C)(C)Cl
reactant | 2-bromobenzaldehyde | 5.66 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.46 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(benzoxazol-2-yl)benzaldehyde | 5.8 g | O1C(=NC2=C1C=CC=C2)C2=C(C=O)C=CC=C2 | C14H9NO2
